US04005219
a. Tricyclo [5,2,2,02,6 ] undecane-3,5-dione
Reduction of tricyclo [5,2,2,02,6 ] undec-8-ene-3,5-dione over 10% palladinised charcoal as described in example 2a gave the title compound; m.p. (MeOH) 254°- 5° C.

reactant | tricyclo [5,2,2,02,6 ] undec-8-ene-3,5-dione | C12C3C(CC(C3C(C=C1)CC2)=O)=O | C11H12O2
reactant | charcoal | C | CH4
product | Tricyclo [5,2,2,02,6 ] undecane-3,5-dione | C12C3C(CC(C3C(CC1)CC2)=O)=O | C11H14O2
